simulator lang=spectre
global 0

ahdl_include "../submission/ideal_adc_4bit_quantizer.va"

Vclk (vclk 0) vsource type=pwl wave=[0 0 1n 0 1.1n 1 3n 1 3.1n 0 11n 0 11.1n 1 13n 1 13.1n 0 21n 0 21.1n 1 23n 1 23.1n 0 31n 0 31.1n 1 33n 1 33.1n 0 41n 0 41.1n 1 43n 1 43.1n 0 48n 0]
Vip (vip 0) vsource type=pwl wave=[0 -0.9 7n -0.9 7.1n -0.2 17n -0.2 17.1n 0.02 27n 0.02 27.1n 0.48 37n 0.48 37.1n 0.92 48n 0.92]
Vin (vin 0) vsource dc=0
XDUT (vclk vip vin digital) ideal_adc_4bit_quantizer

tran tran stop=46n maxstep=20p
save digital vclk vin vip
