simulator lang=spectre
global 0

ahdl_include "../submission/mux4_priority.va"

Vsel0 (sel0 0) vsource type=pwl wave=[0 0 0.8n 0 0.85n 0.9 1.6n 0.9 1.65n 0 2.4n 0 2.45n 0.9 3.2n 0.9]
Vsel1 (sel1 0) vsource type=pwl wave=[0 0 1.6n 0 1.65n 0.9 3.2n 0.9]
Vin0 (in0 0) vsource dc=0.1
Vin1 (in1 0) vsource dc=0.4
Vin2 (in2 0) vsource dc=-0.2
Vin3 (in3 0) vsource dc=0.8
XDUT (sel0 sel1 in0 in1 in2 in3 out) mux4_priority

tran tran stop=3.0n maxstep=5p
save in0 in1 in2 in3 out sel0 sel1
