simulator lang=spectre
global 0

ahdl_include "./dut/offset_rdac_search_flow.va"

Vck (ck 0) vsource type=pulse val0=0 val1=1 delay=1n period=1n width=0.4n rise=20p fall=20p
Vd (d 0) vsource type=pwl wave=[0 0 2.8n 0 2.9n 1 4.8n 1 4.9n 0 5.8n 0 5.9n 1 6.8n 1 6.9n 0 8.8n 0 8.9n 1 10.8n 1 10.9n 0 12.8n 0 12.9n 1 14.8n 1 14.9n 0 16.8n 0 16.9n 1]
XDUT (ck d vinp vinn vrefp vrefn dc0 dc1 dc2 dc3 dc4 dc5 dc6) offset_rdac_search_flow

tran tran stop=18n maxstep=20p
save ck d dc0 dc1 dc2 dc3 dc4 dc5 dc6 vinn vinp vrefn vrefp
