simulator lang=spectre
global 0

ahdl_include "../submission/pfd_up_down_state.va"

Vref (ref 0) vsource type=pwl wave=[0 0 1.1n 0 1.12n 1.2 1.3n 1.2 1.32n 0 2.0n 0 2.02n 1.2 2.2n 1.2 2.22n 0 3.0n 0]
Vfb (fb 0) vsource type=pwl wave=[0 0 0.4n 0 0.42n 1.2 0.6n 1.2 0.62n 0 2.35n 0 2.37n 1.2 2.55n 1.2 2.57n 0 3.0n 0]
XDUT (ref fb up down) pfd_up_down_state

tran tran stop=2.8n maxstep=5p
save ref fb up down
